US03933799
11β-Chloropregn-4-ene-3,20-dione
A mixture of 11α-hydroxy progesterone (6 g., 0.018 mole), anhydrous lithium chloride (6 g., 0.14 mole), N-(2-Chloro-1,1,2-trifluoroethyl)diethylamine (6 ml., 0.036 mole) and dry tetrahydrofuran (120 ml.) was stirred at -20° for 5 hr. and then room temperature for 16 hr. The reaction mixture was partitioned between methylene chloride and water. Evaporation of the organic layer and chromatography of the residue on magnesium silicate afforded, after recrystallisation from acetone/petroleum ether (b.p. 60°-80°), 11β-chloropregn-4 -ene-3,20-dione (0.26 g., 4%), m.p. 185°-188° [α]D + 252° (c 1.0 CHCl3), λmax. (EtOH) 238 nm. (ε 17,150).

reactant | 11α-hydroxy progesterone | 0.018 mole, 6 g | CC(=O)[C@H]1CC[C@@H]2[C@@]1(C[C@H]([C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)O)C | C21H30O3
reactant | lithium chloride | 0.14 mole, 6 g | [Cl-].[Li+]
reactant | N-(2-Chloro-1,1,2-trifluoroethyl)diethylamine | 0.036 mole, 6 ml | ClC(C(F)(F)N(CC)CC)F | C6H11ClF3N
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 11β-Chloropregn-4-ene-3,20-dione | Cl[C@@H]1[C@@H]2[C@]3(CCC(C=C3CC[C@H]2[C@@H]2CC[C@H](C(C)=O)[C@]2(C1)C)=O)C | C21H29ClO2
